US07271274B2
4-{2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]-phenoxy}butane-1,2(R),3(S)-triol
The title compounds can be prepared using the same procedure as described in Ex-1 starting from probucol and 2-ethoxy-1,3-dioxolane-4(S),5(R)-dimethanol and performing a chiral separation.

reactant | probucol | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | 2-ethoxy-1,3-dioxolane-4(S),5(R)-dimethanol | C(C)OC1O[C@@H]([C@@H](O1)CO)CO | C7H14O5
product | 4-{2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxyphenylsulfanyl)-1-methylethylsulfanyl]-phenoxy}butane-1,2(R),3(S)-triol | C(C)(C)(C)C1=C(OC[C@@H]([C@@H](CO)O)O)C(=CC(=C1)S(SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)C)C(C)(C)C | C35H58O5S2
